US07812022B2
Step C: N-(5-Ethynyl-2-fluorophenyl)-2,2,2-trifluoroacetamide
A solution of 2,2,2-trifluoro-N-{2-fluoro-5-[(trimethylsilyl)ethynyl]phenyl}acetamide (5.3 g, 17 mmol) in THF (400 mL) was cooled to 0° C., and a 1.0 M solution of TBAF in THF (17 mL, 17 mmol) was added dropwise. The resulting mixture was stirred for 10 min. at 0° C. The reaction was quenched with H2O (150 mL), concentrated under reduced pressure, and extracted with DCM. The combined organic layers were concentrated under reduced pressure, and the crude solid was used in the next reaction without further purification. ES-LC/MS m/z=230 [M−H]−.

reactant | 2,2,2-trifluoro-N-{2-fluoro-5-[(trimethylsilyl)ethynyl]phenyl}acetamide | 17 mmol, 5.3 g | FC(C(=O)NC1=C(C=CC(=C1)C#C[Si](C)(C)C)F)(F)F | C13H13F4NOSi
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 17 mmol, 17 mL | C1CCOC1 | C4H8O
product | N-(5-Ethynyl-2-fluorophenyl)-2,2,2-trifluoroacetamide | C(#C)C=1C=CC(=C(C1)NC(C(F)(F)F)=O)F | C10H5F4NO
